US09193692B2
A. 2-Bromo-N-(3,5-dibromopyrazin-2-yl)acetamide
A solution of 2-amino-3,5-dibromopyrazine (6.17 g, 23.7 mmol) and bromoacetic anhydride (3.0 g, 11.9 mmol) in acetonitrile (40 mL) was stirred at 70° C. Upon complete consumption of starting material (by TLC), the solution was condensed and partitioned between water and ethyl acetate (3×). The organic layers were combined, dried over magnesium sulfate, filtered and the solvent was removed under reduced pressure. The resulting material was purified using Biotage column chromatography (5-80% ethyl acetate in hexanes) to afford the title compound (3.78 g, 10.1 mmol, 85% yield). MS (ESI) m/z 372.1 [M−2]+, 374.0 [M]+, 376.1 [M+2]+, 378.3 [M+4]+.

reactant | 2-amino-3,5-dibromopyrazine | 23.7 mmol, 6.17 g | NC1=NC=C(N=C1Br)Br | C4H3Br2N3
reactant | bromoacetic anhydride | 11.9 mmol, 3.0 g | BrCC(=O)OC(CBr)=O | C4H4Br2O3
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 2-Bromo-N-(3,5-dibromopyrazin-2-yl)acetamide | 10.1 mmol, 3.78 g, 85% yield | BrCC(=O)NC1=NC=C(N=C1Br)Br | C6H4Br3N3O
